US03987047
3-[1,2,4,5-Tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline-3-yl]propionic acid dihydrochloride was prepared by hydrolysis of 3-[1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline-3-yl]propionic acid ethyl ester with 2 N hydrochloric acid at reflux temperature.

reactant | 3-[1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline-3-yl]propionic acid ethyl ester | C(C)OC(CCN1CCC2=NC=3C=CC=CC3C(=C2CC1)C)=O | C19H24N2O2
reactant | hydrochloric acid | 2 N | Cl | ClH
product | 3-[1,2,4,5-Tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline-3-yl]propionic acid dihydrochloride | Yield: 76% | Cl.Cl.CC1=C2C(=NC=3C=CC=CC13)CCN(CC2)CCC(=O)O | InChI=1S/C17H20N2O2.2ClH/c1-12-13-4-2-3-5-15(13)18-16-7-10-19(9-6-14(12)16)11-8-17(20)21;;/h2-5H,6-11H2,1H3,(H,20,21);2*1H
